US07670591B2
b) tert-Butyl (2-fluoroethyl)[5-(6-methoxy-1,3-benzoxazol-2-yl)pyrimidin-2-yl]carbamate
The title intermediate was synthesized from tert-butyl [5-(6-methoxy-1,3-benzoxazol-2-yl)pyrimidin-2-yl]carbamate according to the procedure described for tert-butyl (2-fluoroethyl)[5-(6-methoxy-1,3-benzoxazol-2-yl)pyridin-2-yl]carbamate to give 128 mg. 1H NMR 400 MHz, Chloroform-d) δ ppm 9.33 (s, 2H) 7.66 (d, 1H) 7.14 (d, 1H) 7.00 (dd, 1H) 4.79 (t, 1H) 4.67 (t, 1H) 4.42 (t, 1H) 4.37 (t, 1H) 3.90 (s, 3 H) 1.57 (s, 9H) MS m/z 389 (M+H).

reactant | tert-butyl [5-(6-methoxy-1,3-benzoxazol-2-yl)pyrimidin-2-yl]carbamate | COC1=CC2=C(N=C(O2)C=2C=NC(=NC2)NC(OC(C)(C)C)=O)C=C1 | C17H18N4O4
reactant | tert-butyl (2-fluoroethyl)[5-(6-methoxy-1,3-benzoxazol-2-yl)pyridin-2-yl]carbamate | FCCN(C(OC(C)(C)C)=O)C1=NC=C(C=C1)C=1OC2=C(N1)C=CC(=C2)OC | C20H22FN3O4
product | tert-Butyl (2-fluoroethyl)[5-(6-methoxy-1,3-benzoxazol-2-yl)pyrimidin-2-yl]carbamate | FCCN(C(OC(C)(C)C)=O)C1=NC=C(C=N1)C=1OC2=C(N1)C=CC(=C2)OC | C19H21FN4O4
